US05591737
N-(2-methylaminoethyl)homopiperazine
To a solution of 2.75 gm of N-(2-formamidoethyl)homopiperazine in 20 ml of dry THF under N2 is added carefully 60 ml of borane THF solution. After the addition is complete the reaction mixture is heated to reflux for 5 hours then stirred at room temperature overnight. The reaction mixture is quenched by the careful addition of 20 ml of 6N HCl followed by refluxing for 1 hour. The reaction mixture is cooled, 50 ml of water added and solid KOH added carefully to alkaline pH. Extraction with ether gives the desired product N-(2-methylamino) homopiperazine.

reactant | N-(2-formamidoethyl)homopiperazine | 2.75 gm | C(=O)NCCN1CCNCCC1 | C8H17N3O
reactant | borane THF | 60 ml | B.C1CCOC1
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-(2-methylaminoethyl)homopiperazine | CNCCN1CCNCCC1 | C8H19N3
